US05071841
A solution of sodium borohydride (2.0 g) in ethanol (100 ml) was added dropwise to an ice-cooled solution of ethyl 5,6,7,8-tetrahydro-2-naphthylglyoxylate (34.5 g) in ethanol (200 ml). After completion of dropwise addition, acetic acid (6 ml) was added and the reaction mixture was poured into water and extracted with chloroform. The chloroform layer was washed with water, dried (MgSO4) and the solvent was distilled off to give ethyl 2-hydroxy-(5,6,7,8-tetrahydro-2-naphthyl)acetate (34.5 g, yield 9%) as an oil.

reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | ethyl 5,6,7,8-tetrahydro-2-naphthylglyoxylate | 34.5 g | C1=C(C=CC=2CCCCC12)C(C(=O)OCC)=O | C14H16O3
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-hydroxy-(5,6,7,8-tetrahydro-2-naphthyl)acetate | 34.5 g, yield 9% | OC(C(=O)OCC)C1=CC=2CCCCC2C=C1 | C14H18O3
